US04284558
14α-Fluoro-3β-hydroxyandrost-5(6)-en-17-one (400 mg) in ethanol (70 ml) was hydrogenated over palladium-charcoal (5%; 250 mg) until uptake of hydrogen ceased (72 hr). The solvent was evaporated in vacuo and the crude product was recrystallised from acetone: hexane to give prisms of 14α-fluoro-3β-hydroxy-5α-androstan-17-one (158 mg) m.p. 201°-202°; [α]D23 +83° (c 0.84, CHCl3); vmax 3500 and 1730 cm-1 ; the PMR spectrum included signals at δ0.83 (3H, s, 19-Me), 1.00 (3H, s, 18-Me) and 3.6 (1H, m, 3-CHOH); FMR φ*+164 ppm (broad multiplet ca 80 Hz wide).

reactant | 14α-Fluoro-3β-hydroxyandrost-5(6)-en-17-one | 400 mg | F[C@@]12CCC([C@@]1(C)CC[C@@H]1[C@]3(CC[C@@H](CC3=CC[C@@H]21)O)C)=O | C19H27FO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 70 ml | C(C)O | C2H6O
catalyst | palladium-charcoal | 250 mg | [Pd] | Pd
product | 14α-fluoro-3β-hydroxy-5α-androstan-17-one | 158 mg | F[C@@]12CCC([C@@]1(C)CC[C@@H]1[C@]3(CC[C@@H](C[C@@H]3CC[C@@H]21)O)C)=O | C19H29FO2
